US05409928
(3) Preparation of 4-(3-methoxyphenylmethyl)benzaldehyde
4-(3-Methoxyphenylmethyl)benzaldehyde ethylene acetal (700 mg, 2.6 millimol) was dissolved in tetrahydrofuran (5 ml), and thereto was added 10% hydrochloric acid. After stirring at room temperature for 30 minutes, to the mixture was added saturated aqueous sodium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed, dried over anhydrous sodium sulfate, and the solvent was distilled away to give the title compound (580 mg, 2.6 millimol, 100%).

reactant | 4-(3-Methoxyphenylmethyl)benzaldehyde ethylene acetal | 2.6 millimol, 700 mg | C1COC(C2=CC=C(C=C2)CC2=CC(=CC=C2)OC)O1 | C17H18O3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(3-methoxyphenylmethyl)benzaldehyde | 2.6 millimol, 580 mg, 100% | COC=1C=C(C=CC1)CC1=CC=C(C=O)C=C1 | C15H14O2
